US04058568
Preparation of 1,2,3,4,9,9-hexachloro-1,4,4a,5,6,7,8,8a-octahydro-1,4-methanonaphthalene-6-carbonitrile.
3-Cyclohexene-1-carbonitrile (Aldrich Chemical Corp.) (56 g), and 200 g. of hexachlorocyclopentadiene were mixed, heated at 160°-170° C. for 6 hours, and then allowed to cool to room temperature. The reaction mixture was then vacuum distilled. Unreacted hexachlorocyclopentadiene was first removed and then the crude adduct produced was collected, 175°-170° C. at 0.3 m.m. Hg. The thick liquid was crystallized very slowly in Skelly "B". The crude solid melted at 140°-150° C.

reactant | 3-Cyclohexene-1-carbonitrile | 56 g | C1(CC=CCC1)C#N | C7H9N
reactant | hexachlorocyclopentadiene | ClC1(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C5Cl6
product | 1,2,3,4,9,9-hexachloro-1,4,4a,5,6,7,8,8a-octahydro-1,4-methanonaphthalene-6-carbonitrile | ClC12C(=C(C(C3CC(CCC13)C#N)(C2(Cl)Cl)Cl)Cl)Cl | C12H9Cl6N
